US07820665B2
A sealable vial was charged with N-(6-chloro-3-iodoimidazo[1,2-b]pyridazin-2-yl)acetamide (74.0 mg, 220 μmol), 4-pyridylboronic acid (32.4 mg, 264 μmol), sodium carbonate (93.2 mg, 880 μmol), and dichloro 1,1′-bis(diphenylphosphino)ferrocene palladium(II) (122 mg, 220 μmol). The vial was sealed with a septum cap and 1,4-dioxane (2 mL) was added under positive N2 flow followed by water (1 mL). The mixture was sparged with N2 for 10 min and heated at 80° C. for 18 h. The solution was concentrated and the residue was taken up in minimal MeOH/DMSO and purified by preparative HPLC (Gilson GX-281, Middletown, Wis.: 5-90% (0.1% TFA in CH3CN) in H2O over 15 min, Phenomenex, Zorbax 00F-4435-UO 150×30 mm, 5 micron) to afford N-(6-chloro-3-(pyridin-4-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide (47.0 mg, 74.3% yield) as a trifluoroacetic acid salt. LCMS (ESI positive ionization) m/z: 288.3 (M+1).

reactant | N-(6-chloro-3-iodoimidazo[1,2-b]pyridazin-2-yl)acetamide | 220 μmol, 74.0 mg | ClC=1C=CC=2N(N1)C(=C(N2)NC(C)=O)I | C8H6ClIN4O
reactant | 4-pyridylboronic acid | 264 μmol, 32.4 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 880 μmol, 93.2 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
catalyst | dichloro 1,1′-bis(diphenylphosphino)ferrocene palladium(II) | 220 μmol, 122 mg | [Pd+2].ClC1=C([C-](C=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)Cl.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 1 mL | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-(6-chloro-3-(pyridin-4-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide | 47.0 mg, 74.3% yield | ClC=1C=CC=2N(N1)C(=C(N2)NC(C)=O)C2=CC=NC=C2 | C13H10ClN5O
